US07943651B2
1-{[3-(4-{[4-[5-Fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)phenyl]carbonyl}-D-prolinamide
Prepared similarly to Example 1 from 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoic acid and D-prolinamide.

reactant | 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoic acid | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)O)C=CC1)(C(F)(F)F)O)(C)C)OC | C29H29F4N3O4
reactant | D-prolinamide | N1[C@@H](C(=O)N)CCC1 | C5H10N2O
product | 1-{[3-(4-{[4-[5-Fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)phenyl]carbonyl}-D-prolinamide | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C=CC1)C(=O)N1[C@@H](C(=O)N)CCC1)(C(F)(F)F)O)(C)C)OC | C34H37F4N5O4
